US05420335
Example 1: Preparation of Glycerol bis-acetoacetate (Compound 1)
A portion of the crude reaction product (3600 g) was dissolved in approximately 6 liters of ethyl acetate and extracted with distilled water (3×3 L) to provide a first aqueous fraction and again extracted with water (6× 3 L) to provide a second aqueous fraction. Analysis of the aqueous extracts by HPLC indicated that essentially all of the monoacetoacetin contained in the crude reaction product was removed in the first aqueous fraction. Using a freeze-dryer, water was removed from the second aqueous fraction until constant weight was achieved (1029.5 g, ca. 30%). This material was tested without further purification for efficacy as a parenteral nutrient.

reactant | monoacetoacetin | CC(=O)CC(=O)O.C(C(CO)O)O
solvent | ethyl acetate | approximately 6 liters | C(C)(=O)OCC | C4H8O2
product | Glycerol bis-acetoacetate | C(CC(=O)C)(=O)OCC(OC(CC(=O)C)=O)CO | C11H16O7
